data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21]1C=C([O+:23]=[C:22]1C2=C(C=CC=C2)Br)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>[H:20][OH2+:10].CC1=C[CH:21]=[C:22]([O:23]1)C2=C(C=CC=C2)Br.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;22,23=23;20,21=21,22
C1C(=O)O[Ca:20][NH+]1CC(=O)[O-:10].O>>C1C(=O)O[Ca-:20]2[NH+]1CC(=O)[O:10]2.O 10=20,
CCCC1[CH:10]=[CH:11]CC1C[CH2:20][O:21]S(=O)(=O)C2=CC=C(C=C2)C>>CCCC1C2C[CH2:20][CH:10]1[CH+:11]C2.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)C#N.[N+:20](=O)=[O:21]>>C1=CC2=CC=C(C=C2[CH:10]([CH+:11]1)[N+:20](=O)[O-:21])C#N 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCC(CC=O)[OH:10]>>[H:20][OH+:10]C(CC)CC=O.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][N+:21](=C(NC)OS(C)(C)OCC)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CCOS(C)(C)OC(=[N:21]C)NC 10=20;20,21=21
[H:20][NH+:21](CC)C(C)N(C)C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[NH:21]C(C)N(C)C 10=20;20,21=21
CC#[N:10].[Cu:20](Br)Br>>CC#[N+:10][Cu-:20](Br)Br 10=20,
[H:20][OH2+:21].C1C(=O)NC2=C(C=CC=C2)C([NH:10]1)(C3=NC=CC=C3)O.[Cl-]>>[H:20][NH+:10]1CC(=O)NC2=C(C1(C3=NC=CC=C3)O)C=CC=C2.[OH2:21].[Cl-] 10=20;20,21=21
[H:20][NH:21][C:22](=[O:23])C1CCC(CC1)NC(=O)OCC[Si](C)(C)C.CC[N:10](CC)CC.C(=O)(C(F)(F)F)OC(=O)C(F)(F)F>>[H:20][N+:10](CC)(CC)CC.C[Si](C)(C)CCOC(=O)NC1CCC(CC1)[C:22](=[NH:21])[O-:23].C(=O)(C(F)(F)F)OC(=O)C(F)(F)F 10=20;22,23=23;20,21=21,22
[H:20][NH+:21](CCC)CCC.CCCN(CCC)C1(CCCCC1)[O:10][Ti-](Cl)(Cl)(Cl)Cl>>[H:20][O+:10](C1(CCCCC1)N(CCC)CCC)[Ti-](Cl)(Cl)(Cl)Cl.CCC[NH:21]CCC 10=20;20,21=21
CC1=C(S[C-:10]=[N+]1CC2=CC=CC=C2)CCO.CC(C)[CH:20]=[O:21].CC[NH+](CC)CC.CC(=O)C=C.[Cl-]>>CC1=C(S[C:10](=[N+]1CC2=CC=CC=C2)[CH:20](C(C)C)[O-:21])CCO.CC[NH+](CC)CC.CC(=O)C=C.[Cl-] 10=20;20,21=21
CC(C)(C)OC(=O)[C:20](C(=O)CC1=CC=CC=C1)([NH:10]CCC2=CNC3=CC=CC=C32)[OH2+:21]>>CC(C)(C)OC(=O)[C:20](=[NH+:10]CCC1=CNC2=CC=CC=C21)C(=O)CC3=CC=CC=C3.[OH2:21] 10=20;20,21=21
[B-]([O+:21](C)[C:20](C)(C)[N:10](C)C)(F)(F)F>>[B-]([O:21]C)(F)(F)F.C[C:20](=[N+:10](C)C)C 10=20;20,21=21
CC[CH:20]=[OH+:21].[CH2:10]=[CH:11][OH:12]>>CC[CH:20]([CH2:10][CH:11]=[OH+:12])[OH:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C1=C(C2=C(C=C(C=C2C=C1OCC3=CC=CC=C3)OC)OC)OC.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.COC1=CC(=C2C(=C1)C=C(C(=C2OC)Br)CO)OC>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.COC1=CC(=C2C(=C1)C=C(C(=C2OC)C(=O)[O-:21])OCC3=CC=CC=C3)OC.COC1=CC(=C2C(=C1)C=C(C(=C2OC)Br)CO)OC 10=20;20,21=21
[H:20][C:21]1([C+:22](C=CO1)OC)Br.[Br-:10]>>[H:20][Br:10].CO[C:22]1=[C:21](OC=C1)Br 10=20;20,21=21,22
[H:20][O:21]C(=O)C.CC(=O)CCC(C)(NC1=NNC=C1)[OH:10]>>[H:20][OH+:10]C(C)(CCC(=O)C)NC1=NNC=C1.CC(=O)[O-:21] 10=20;20,21=21
CO[P:10](OC)OC.C1=CC=C(C=C1)[CH2:20][Cl:21]>>CO[P+:10]([CH2:20]C1=CC=CC=C1)(OC)OC.[Cl-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1=C[CH:22]=[C:21](O1)[N+](=O)[O-] 10=20;20,21=21,22
[CH3:20][O:21]S(=O)(=O)C.C[S:10]C>>CS(=O)(=O)[O-:21].C[S+:10](C)[CH3:20] 10=20;20,21=21
CCC(C)O[C:20](=[O:21])CC(C)C.[OH-:10]>>CCC(C)O[C:20](CC(C)C)([OH:10])[O-:21] 10=20;20,21=21
[H:20][CH:21](C)[C:22](=[OH+:23])CC.C[NH:10]C>>[H:20][NH+:10](C)C.CC[C:22](=[CH:21]C)[OH:23] 10=20;22,23=23;20,21=21,22
[H:20][NH+:21]1CCCCC1.CCC(C)CC(N1CCCCC1)[OH:10].CCOC(=O)CC(=O)C.CC(=O)[O-]>>[H:20][OH+:10]C(CC(C)CC)N1CCCCC1.C1CC[NH:21]CC1.CCOC(=O)CC(=O)C.CC(=O)[O-] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C)C(=O)OCC.[OH-:10].O.[Na+]>>[H:20][OH:10].CCOC(=O)[CH:21]=[C:22](C)[O-:23].O.[Na+] 10=20;22,23=23;20,21=21,22
CCCC1CC2[CH:10]=[CH:11]C1[CH:20]2[O:21]S(=O)(=O)C3=CC=C(C=C3)C>>CCCC1CC2[CH:10]3[CH:20]2C1[CH+:11]3.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][NH2+:21]CCN.C1CN=C(C(N1)(C2=CC=CC=C2)[O-:10])C3=CC=CC=C3.CCO.O>>C(CN)[NH2:21].[H:20][O:10]C1(C(=NCCN1)C2=CC=CC=C2)C3=CC=CC=C3.CCO.O 10=20;20,21=21
CC(=O)CC[CH:20]([OH2+:21])[O:10]CCO>>CC(=O)CC[CH:20]=[O+:10]CCO.[OH2:21] 10=20;20,21=21
[H:20][OH2+:21].CCN(CC)[C:11](=[CH:10]CC1=CC=CC=C1)[O-:12]>>[H:20][CH:10](CC1=CC=CC=C1)[C:11](=[O:12])N(CC)CC.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][Cl:21].C1=CC=C(C(=C1)C(=O)O)[NH:12][N:11]=[O:10]>>[H:20][O:10][N:11]=[NH+:12]C1=CC=CC=C1C(=O)O.[Cl-:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](C1CCCCC1C)S(=O)(C2=CC=C(C=C2)C)([O-])Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CC1CCCCC1[O:21]S(=O)(C2=CC=C(C=C2)C)([O-])Cl 10=20;20,21=21
C1=CC=C(C=C1)CC(C(=O)NCC(=O)O)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>C1=CC=C(C=C1)CC(C(=O)NCC(=O)O)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][O+:21]1CCCC1O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CC([O:21]C1)O 10=20;20,21=21
[H:20][N+:21]1(CCCC1)C(C)(CC)[O-].[OH2:10]>>[H:20][OH2+:10].CCC(C)([N:21]1CCCC1)[O-] 10=20;20,21=21
CCCCCC1=CC(=C(C(=C1)O)C2C=C(CCC2[C+:20](C)C)C)[O-:10].C1=CC=[NH+]C=C1.[OH-]>>CCCCCC1=CC2=C(C3C=C(CCC3[C:20]([O:10]2)(C)C)C)C(=C1)O.C1=CC=[NH+]C=C1.[OH-] 10=20,
